US08334295B2
3-[(2,6-Bis-benzyloxy-5-ethyl-pyrimidin-4-yl)-cyano-methyl]-5-methyl-benzonitrile:
To a stirred mixture of 2,4-bis-benzyloxy-6-chloro-5-ethyl-pyrimidine (9.89 g, 27.87 mmol) and 3-cyanomethyl-5-methyl-benzonitrile (4.15 g, 26.55 mmol) in anhydrous DMF (50 mL) in an ice-water bath under an atmosphere of nitrogen, was portionwise added 60% sodium hydride (2.34 g, 58.4 mmol). After stirring for 1 hr, the mixture was stirred at room temperature for overnight. The mixture was neutralized with aqueous saturated ammonium chloride solution. The crude product was extracted with ether and recrystallized from dichloromethane-hexane to afford 10.3 g (82%) a pale yellow solid; m.p. 139-141° C.; 1H NMR (200 MHz, CDCl3) δ: 1.00 (3H, t, J=7.6 Hz), 2.37 (3H, s), 2.52-2.58 (2H, m), 5.29 (1H, s), 5.49 (4H, s), 7.27-7.50 (10H, m); m/z (EI): 474 (M+).

reactant | 2,4-bis-benzyloxy-6-chloro-5-ethyl-pyrimidine | 27.87 mmol, 9.89 g | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)OCC1=CC=CC=C1)CC)Cl | C20H19ClN2O2
reactant | 3-cyanomethyl-5-methyl-benzonitrile | 26.55 mmol, 4.15 g | C(#N)CC=1C=C(C#N)C=C(C1)C | C10H8N2
reactant | sodium hydride | 58.4 mmol, 2.34 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-[(2,6-Bis-benzyloxy-5-ethyl-pyrimidin-4-yl)-cyano-methyl]-5-methyl-benzonitrile | 10.3 g, 82% | C(C1=CC=CC=C1)OC1=NC(=C(C(=N1)C(C=1C=C(C#N)C=C(C1)C)C#N)CC)OCC1=CC=CC=C1 | C30H26N4O2
